US08026234B2
2-chloro-7,7-difluoro-5-methyl-9-((3R)-3-methylcyclopentyl)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one:
2-Chloro-7,7-difluoro-9-((3R)-3-methylcyclopentyl)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one was methylated on 5-position using sodium hydride and methyl iodide. After 30 minutes the reaction was deemed complete by LCMS, poured into ice, the solution acidified with 1N HCl, the product filtered off as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.91-2.22 (m, 10H) 3.34 (s, 3H) 4.04-4.35 (m, 2H) 4.72-5.04 (m, 1H) 8.35 (s, 1H). m/z 331.2 (M+H)+.

reactant | 2-Chloro-7,7-difluoro-9-((3R)-3-methylcyclopentyl)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)C2C[C@@H](CC2)C)N1 | C13H15ClF2N4O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | HCl | 1N | Cl | ClH
product | 2-chloro-7,7-difluoro-5-methyl-9-((3R)-3-methylcyclopentyl)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2C[C@@H](CC2)C)N1 | C14H17ClF2N4O
